US06953857B2
(i) 4′-Aminomethyl-biphenyl-2-sulfonic acid dimethylaminomethyleneamide
1.5 g of 4′-formyl-biphenyl-2-sulfonic acid dimethylaminomethyleneamide prepared according to H. Jendralla et al. (Liebigs Ann. 1995, 1253-7) in 15 ml MeOH were treated with 208.6 mg NaCNBH3 and the reaction was stirred for 4 hours at RT. The pH was adjusted to 4.0, the reaction was filtered, the solvent was removed under reduced pressure and the residue was chromatographed on silica gel eluting with a gradient of 10-20% MeOH in DCM.

reactant | 4′-formyl-biphenyl-2-sulfonic acid dimethylaminomethyleneamide | 1.5 g | CN(C)C=NS(=O)(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C=O | C16H16N2O3S
reactant | NaCNBH3 | 208.6 mg | [BH3-]C#N.[Na+]
solvent | MeOH | 15 ml | CO | CH4O
product | 4′-Aminomethyl-biphenyl-2-sulfonic acid dimethylaminomethyleneamide | CN(C)C=NS(=O)(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)CN | C16H19N3O2S
